US05045548
To a solution of 8-chloro-2,2-dibutyl-3,4-dihydro-(5(2-quinolylmethoxy)-1(2H)-naphthalenone (180 mg) in freshly distilled tetrahydrofuran (5 ml) was added lithium aluminum hydride (15 mg) with stirring in an ice bath under nitrogen and the mixture was stirred for minutes in an ice bath. To the mixture was carefully added aqueous saturated ammonium chloride solution (5 ml) in an ice bath, and then diethylether (10 ml) was added thereto. The separated aqueous layer was extracted two times with diethyl ether and the combined organic layers were washed with brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give the oily residue which was crystallized from diisopropyl ether to yield 8-chloro-2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol (142 mg).

reactant | 5(2-quinolylmethoxy)-1(2H)-naphthalenone | 180 mg | N1=C(C=CC2=CC=CC=C12)COC1=C2C=CCC(C2=CC=C1)=O | C20H15NO2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 15 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 8-chloro-2,2-dibutyl-5-(2-quinolylmethoxy)-1,2,3,4-tetrahydro-1-naphthol | 142 mg | ClC=1C=CC(=C2CCC(C(C12)O)(CCCC)CCCC)OCC1=NC2=CC=CC=C2C=C1 | C28H34ClNO2
